US08039460B2
tert-Butyl (6S,9R)-3-acetyl-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Pyridinium dichromate (0.96 g, 2.55 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (0.52 g, 1.28 mmol) in acetonitrile (10 mL). After 18 h, the reaction was filtered through celite and concentrated. Saturated sodium carbonate was added and the mixture was extracted with dichloromethane (3×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→40% ethyl acetate/dichloromethane) gave the title compound (0.38 g). MS 406.1 (M+1).

reactant | Pyridinium dichromate | 2.55 mmol, 0.96 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 1.28 mmol, 0.52 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)O)NC(OC(C)(C)C)=O | C21H27F2N3O3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-Butyl (6S,9R)-3-acetyl-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.38 g | C(C)(=O)C1=CN=C2N1C[C@@H](CC[C@H]2NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F | C21H25F2N3O3
